US05688798
0.23 g (0.00081 mol) of 5-(4-phenyl-3,6-dihydro-2H-pyridin-1-ylmethyl)-pyrimidine-2,4-diamine was dissolved in 220 ml of hot methanol. The solution was treated at room temperature with 0.47 ml (0.00162 mol) of 3.5N ethanolic hydrochloric acid. The solution was completely freed from the solvents and the residue was recrystallized from methanol/diethyl ether. 0.23 g (79%) of 5-(4-phenyl-3,6-dihydro-2H-pyridin-1-ylmethyl)-pyrimidine-2,4-diamine dihydrochloride was obtained as white crystals; m.p. 209°-211°.

reactant | 5-(4-phenyl-3,6-dihydro-2H-pyridin-1-ylmethyl)-pyrimidine-2,4-diamine | 0.00081 mol, 0.23 g | C1(=CC=CC=C1)C=1CCN(CC1)CC=1C(=NC(=NC1)N)N | C16H19N5
reactant | hydrochloric acid | 0.00162 mol, 3.5N, 0.47 ml | Cl | ClH
solvent | methanol | 220 ml | CO | CH4O
product | 5-(4-phenyl-3,6-dihydro-2H-pyridin-1-ylmethyl)-pyrimidine-2,4-diamine dihydrochloride | 0.23 g, 79% | Cl.Cl.C1(=CC=CC=C1)C=1CCN(CC1)CC=1C(=NC(=NC1)N)N | InChI=1S/C16H19N5.2ClH/c17-15-14(10-19-16(18)20-15)11-21-8-6-13(7-9-21)12-4-2-1-3-5-12;;/h1-6,10H,7-9,11H2,(H4,17,18,19,20);2*1H
